US04256831
D-6: 2-tert-Butylsulfamoyl-5-morpholinosulfonamido-1-naphthol
To a mixture of 9 g. of 5-amino-2-tert-butylsulfamoyl-1-naphthol with 90 ml. of pyridine were added portionwise under ice-cooling and stirring 11 g. of morpholinosulfonyl chloride and stirring was continued at room temperature for 20 hours. Thereafter, 10 ml. of water were added and stirring was carried out for further 1 hour. Into a mixture of 115 ml. of conc. hydrochloric acid with 400 ml. of ice-water was poured the above reaction mixture to separate a solid precipitate, which was then collected on a filter funnel and washed with water. The product was dissolved in an alkaline solution of 6 g. of sodium hydroxide in 150 ml. of water, insolubles were filtered off, the filtrate was poured into a mixture of 15 ml. of conc. hydrochloric acid with 150 ml. of ice-water to separate a solid precipitate. The precipitate was collected on a filter funnel, washed well with water and then dried to afford 9.6 g. of the desired product in a yield of 72%. mp. 105°-110° C.

reactant | 5-amino-2-tert-butylsulfamoyl-1-naphthol | NC1=C2C=CC(=C(C2=CC=C1)O)S(NC(C)(C)C)(=O)=O | C14H18N2O3S
reactant | pyridine | N1=CC=CC=C1 | C5H5N
reactant | morpholinosulfonyl chloride | O1CCN(CC1)S(=O)(=O)Cl | C4H8ClNO3S
reactant | hydrochloric acid | Cl | ClH
solvent | water | O | H2O
product | 2-tert-Butylsulfamoyl-5-morpholinosulfonamido-1-naphthol | yield of 72% | C(C)(C)(C)NS(=O)(=O)C1=C(C2=CC=CC(=C2C=C1)NS(=O)(=O)N1CCOCC1)O | C18H25N3O6S2
